US05104888
Ethyl 3-[4-(6-t-Butoxycarbonylmethoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate
16 ml of concentrated hydrochloric acid, 7 ml of an aqueous solution containing 3.1 g of sodium nitrite and 37 ml of ethyl acrylate were added, in that order, at 5°-10° C. to a mixture of 16 g of 2-(4-aminophenoxymethyl)-6-t-butoxycarbonylmethoxy-2,5,7,8-tetramethylchroman-4-one (prepared as described in Preparation 62) and 160 ml of acetone. Then 0.5 g of cuprous oxide was added gradually at an internal temperature of 40°-43° C. After about 30 minutes, the evolution of nitrogen had ceased. The reaction mixture was then poured into water and extracted with benzene. This extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled from the extract under reduced pressure, and the residue was purified by silica gel column chromatography eluted with a 9:1 by volume mixture of cyclohexane and ethyl acetate, to give the title compound.

reactant | hydrochloric acid | 16 ml | Cl | ClH
reactant | sodium nitrite | 3.1 g | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 37 ml | C(C=C)(=O)OCC | C5H8O2
reactant | 2-(4-aminophenoxymethyl)-6-t-butoxycarbonylmethoxy-2,5,7,8-tetramethylchroman-4-one | 16 g | NC1=CC=C(OCC2(OC3=C(C(=C(C(=C3C(C2)=O)C)OCC(=O)OC(C)(C)C)C)C)C)C=C1 | C26H33NO6
solvent | water | O | H2O
solvent | acetone | 160 ml | CC(=O)C | C3H6O
product | Ethyl 3-[4-(6-t-Butoxycarbonylmethoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | C(C)(C)(C)OC(=O)COC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O)C | C31H39ClO8
